US07560551B2
To 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyridin-2-amine (0.070 g, 0.24 mmol) and 1-chloro-4-phenylphthalazine (0.048 g, 0.20 mmol) was added tBuOH (1.0 mL). The resulting mixture was heated at 100° C. in a sealed tube for 16 hours. The reaction was diluted with diethyl ether and saturated sodium carbonate and vigorously shaken. The resulting solids were filtered and washed with water, diethyl ether and air dried to yield N-(4-(3-(2-(methylamino)pyridin4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine as an off-white solid. MS m/z=497 [M+H]+. Calc'd for C31H24N6O: 496.58.

reactant | 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyridin-2-amine | 0.24 mmol, 0.070 g | NC1=CC=C(OC2=NC=CC=C2C2=CC(=NC=C2)NC)C=C1 | C17H16N4O
reactant | 1-chloro-4-phenylphthalazine | 0.20 mmol, 0.048 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
reactant | tBuOH | 1.0 mL | CC(C)(C)O | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | N-(4-(3-(2-(methylamino)pyridin4-yl)pyridin-2-yloxy)phenyl)-4-phenylphthalazin-1-amine | CNC1=NC=CC(=C1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C31H24N6O
